US06420555B1
Preparation 4: 3-(3-Chlorophenyl)-indoline
3-(3-Chlorophenyl)indole (5.30 g, 23.3 mmol) was dissolved in 50 mL of 1 M BH3 in THF. The mixture was cooled to about 0° C. To the solution was added slowly TFA (50 mL). After addition, the solution was stirred for about 10 minutes. To the solution was added slowly 1M BH3 in THF (40 mL). The mixture was stirred for about 5 minutes and then concentrated in vacuo. The residue was purified by column chromatography on silica, eluting with EtOAc/hexane 1:6. The title compound was obtained as an oil (Yield; 3.93 g, 74%). Rf=0.20 (Silica, EtOAc/hexane 1:4) MS (ES):229.1; Calc. MW=229.7.)

reactant | 3-(3-Chlorophenyl)indole | 23.3 mmol, 5.30 g | ClC=1C=C(C=CC1)C1=CNC2=CC=CC=C12 | C14H10ClN
reactant | TFA | 50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 3-(3-Chlorophenyl)-indoline | ClC=1C=C(C=CC1)C1CNC2=CC=CC=C12 | C14H12ClN
